US08349849B2
To 6 L of ice cold DMF was added 183 grams of NaH; the mixture stirred and a solution of 811.2 grams diethyl methylmalonate in 1.5 L DMF was added dropwise. The temp was kept at 0-5° C. for 2 hrs, and then cooled below −3° C., and 650 grams bromo-6-methoxy-3,4-dihydronaphthalen-1(2H)-one was added. The reaction was followed by HPLC until the starting material disappeared. The mixture was poured onto ice water, adjusted to pH 4-5 with HCl, and extracted with ethyl acetate. The organic layer was washed with brine, dried, decolorized and concentrated. To the residue was added ether, the mixture cooled, filtered, and the residue washed with petroleum ether to get 745 g of diethyl 2-methyl-2-(6-methoxy-1-oxo-1,2,3,4-tetrahydronaphthalen-2-yl)malonate, M=348.2, purity 96.57%.

reactant | NaH | 183 grams | [H-].[Na+]
reactant | diethyl methylmalonate | 811.2 grams | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | bromo-6-methoxy-3,4-dihydronaphthalen-1(2H)-one | 650 grams | BrC1C(C2=CC=C(C=C2CC1)OC)=O | C11H11BrO2
reactant | HCl | Cl | ClH
solvent | DMF | 1.5 L | CN(C)C=O | C3H7NO
product | diethyl 2-methyl-2-(6-methoxy-1-oxo-1,2,3,4-tetrahydronaphthalen-2-yl)malonate | 745 g | CC(C(=O)OCC)(C(=O)OCC)C1C(C2=CC=C(C=C2CC1)OC)=O | C19H24O6
